2189-01-17 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: STEMI
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2189-1-16**] 11:48 PM
 IABP LINE - START [**2189-1-17**] 01:10 AM
   - [**Street Address(2) 10824**] yesterday in OM, prox LCx, LADx3 s/p anterior STEMI
   - Patient complained of vague chest pain and abdominal pain, appeared
   very anxious but went back to sleep without intervention
   - Patient highly anxious and complaining of further chest pain this AM
   - complained of back pain after moved around for CXR board placement
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-17**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 86 (86 - 109) bpm
   BP: 84/43(63) {84/38(63) - 113/52(79)} mmHg
   RR: 24 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                      4 mL
                                                                    193 mL
   PO:
             TF:
   IVF:
                                                                      4 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    650 mL
   Urine:
   650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -596 mL
                                                                   -457 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: frail elderly female, anxious appearing, oriented to year and
   hospital
   HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa. Dry mucus membranes
   NECK: Supple without JVD
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No extra sounds when IABP paused
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
   unlabored, no accessory muscle use. Crackles bilaterally, increased at
   bases
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. Left groin with IABP insertion, right groin
   nontender, no hematomas or bruits. Right DP [**12-13**]+, left trace, both feet
   warmer than yesterday.
   Labs / Radiology
   396 K/uL
   12.3 g/dL
   196 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   21 mg/dL
   100 mEq/L
   135 mEq/L
   36.6 %
   15.9 K/uL
        [image002.jpg]
                             [**2189-1-17**]  12:29 AM
   WBC
   15.9
   Hct
   36.6
   Plt
   396
   Cr
   0.9
   TropT
   23.90
   Glucose
   196
   Other labs: PT / PTT / INR:12.5/38.8/1.1, CK / CKMB /
   Troponin-T:5512//23.90, Mg++:2.0 mg/dL
   Assessment and Plan
   87F with no PMH, p/w chest pain, found to have 3V CAD and proximal LAD
   and LCX total thrombotic occlusion, now s/p stenting.
   .
   # s/p STEMI:
   Diffuse disease, with thrombotic occlusion of proximal LAD and LCX
   requiring 5 stents to restore flow. IABP placed for high risk PCI and
   maintained for pump support.  Cardiac enzymes trending down. Blood
   pressures appear to be stable when non-augmented  with IABP paused, but
   need to give heart a rest while recovering.
   - Continue ASA, Plavix, Integrilin
   - high dose statin
   - hold beta blockers b/c pt needs full inotropic function of heart
   - f/u HgA1C and lipid panel for secondary prevention
   - family discussion
   # Cardiogenic Shock:
   Not perfusing kidneys well, urine output dropping off.  Started
   milrinone to help w urine output and blood pressures.
   -          uptitrate milrinone while monitoring for arrhythmia
   -          monitor urine output
   -          f/u TTE this AM
   .
   # Abdominal Pain:
   Concern for mesenteric ischemia w hx of atherosclerosis, manipulation
   in vessels yesterday and current IABP.
   -          check lactate
   -          abdominal CT
   .
   # Back Pain:
   Hematocrit has been stable, so not likely RP bleed, though possible she
   has had a small dissection.
   -          CT abdomen
   .
   # Acute Systolic Heart Failure:
   BP stable on IABP on 1:1, which was placed during PCI because of left
   main disease, no pressors. RHC pressures consistent with left heart
   failure, confirmed by bedside echo. Question of left to right
   intracardiac shunt because of step up right sided oxygenation noted
   during cath.  Prelim Bedside Echo during cath did not show any obvious
   shunt.
   - f/u full TTE this AM
   - wean IABP as tolerated tomorrow
   - continue heparin drip while IABP in place
   - monitor peripheral perfusion
   - avoid BB
   - will eventually require ACEi given depressed EF
   - likely will need bridge to coumadin for akinetic regions
   .
   # Anxiety :
   -          needs encouragement, has responded to morphine
   -          social work and family meeting
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2189-1-16**] 11:48 PM
   IABP line - [**2189-1-17**] 01:10 AM
   18 Gauge - [**2189-1-17**] 01:19 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: CCU

2189-01-19 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 87F with no PMH, p/w chest pain, found to have 3V CAD
   and proximal LAD and LCX total thrombotic occlusion, now s/p stenting
   24 Hour Events:
   - cordis, PA catheter placed with wedge -> 30
   - diuresed with 40mg IV lasix x2, putting out ~1000cc each time.
   - low dose metoprolol ordered, but not given due to borderline
   pressures
   - IABP removed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-1-18**] 04:30 PM
   Morphine Sulfate - [**2189-1-18**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-19**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 96 (95 - 126) bpm
   BP: 97/52(63) {90/42(60) - 149/77(87)} mmHg
   RR: 21 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 9 (5 - 15)mmHg
   PAP: (48 mmHg) / (23 mmHg)
   CO/CI (Fick): (4.2 L/min) / (2.6 L/min/m2)
   Mixed Venous O2% Sat: 58 - 62
   Total In:
                                                                  1,490 mL
                                                                    370 mL
   PO:
                                                                    270 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,220 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  2,166 mL
                                                                     93 mL
   Urine:
                                                                  2,166 mL
                                                                     93 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -676 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.46/32/58/26/0
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Alert and orientated x3, responds to voice, non-focal
   Labs / Radiology
   204 K/uL
   10.0 g/dL
   116 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   24 mg/dL
   103 mEq/L
   136 mEq/L
   29.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2189-1-17**]  01:59 PM
                             [**2189-1-17**]  02:17 PM
                             [**2189-1-17**]  05:00 PM
                             [**2189-1-18**]  04:50 AM
                             [**2189-1-18**]  08:39 AM
                             [**2189-1-18**]  11:35 AM
                             [**2189-1-18**]  11:40 AM
                             [**2189-1-18**]  04:03 PM
                             [**2189-1-18**]  10:16 PM
                             [**2189-1-19**]  04:42 AM
   WBC
   11.7
   14.5
   11.2
   Hct
   33.6
   29.2
   35
   32.0
   29.5
   Plt
   261
   286
   204
   Cr
   0.9
   0.8
   0.8
   0.8
   TropT
   14.92
   8.46
   6.78
   TCO2
   26
   23
   23
   Glucose
   143
   132
   126
   141
   141
   116
   Other labs: PT / PTT / INR:13.4/74.0/1.1, CK / CKMB /
   Troponin-T:259/14/6.78, Lactic Acid:1.2 mmol/L, Ca++:7.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   87F with no PMHx p/w chest pain found to have 3V CAD and proximal LAD
   and LCx total thrombotic occlusion, now s/p stenting with extensive LV
   systolic dysfunction including apical akinesis with IABP in place
   #. s/p STEMI: The patient has diffuse disease. She had thrombotic
   occlusion of the proximal LAD and LCx requiring 5 stents. IABP placed
   due to high risk PCI and maintained for pump support. Cardiac enzymes
   trending down although appears to be large MI. Put on milrinone in
   attempt to increase urine output. Blood pressures appear to be stable
   off IABP.
   - continue aspirin, plavix
   - d/c integrilin
   - continue high dose statin
   - hold beta blocker (needs inotropic function) and ACEi (needs
   pressure)
   - d/c IABP today - follow closely
   - cordis with swan ganz catheter
   - will need long term anticoagulation due to apical akinesis -
   currently on heparin gtt, may need to bridge to coumadin if benefits
   outweight risks, will eval today
   - continue tele
   - follow up HgbA1C and lipid panel
   - PT consult in future
   #. Cardiogenic Shock: Not perfusing kidneys well. On milrinone to help
   with urine output and pressures. Urine output has continued to declined
   despite milrinine and fluid boluses. Also requiring 5L NC which has
   increased from prior days.
   - d/c IABP per above
   - place central access
   - continue milrinone for now
   - may need second pressor - add as tolerated
   - monitor urine output - IVF prn if tolerates
   - monitor blood pressures
   #. Decreased urine output: The patient had her foley replaced. Multiple
   fluid boluses and on IV milrinone. Despite these efforts urine output
   has decreased. Her creatinine is relative stable.
   - [**Name2 (NI) 1174**] creatinine
   - IVF as respiratory status tolerates
   - continue milrinone
   #. Abdominal pain: CTAP done without clear signs of pathology which
   could explain symptoms. The patient continues to complain of vague
   symptoms. Lactates have been normal.
   - f/u CTAP
   #. Back pain: Hematocrit was stable and now has trended down slightly.
   No evidence of RP or dissection on CT. Likely secondary to hemolysis
   from balloon pump.
   - [**Name2 (NI) 1174**] hct
   - guaiac stools
   - transfuse if ischemic or HD unstable
   #. Anxiety: Need reassurance often. Has responded to morphine in the
   past.
   - SW
   - ativan prn - try to minimize
   - family meeting
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2189-1-18**] 11:22 AM
   PA Catheter - [**2189-1-18**] 11:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-01-20 07:08:00 Physician Resident Progress Note
Chief Complaint: 87F with no PMHx p/w chest pain found to have 3V CAD
   and proximal LAD and LCx total thrombotic occlusion, now s/p stenting
   with extensive LV systolic dysfunction including apical akinesis.  IABP
   removed.
   24 Hour Events:
   - transition to lovenox (1mg/kg) from heparin gtt
   - cardiac output low, urine output low; DCed lasix gtt and started
   milrinone gtt again
   - went into afib w milrinone w RVR 150s, so milrinone stopped,
   amiodarone bolus; started 250cc bolus, and pt converted to NSR, likely
   from amio; PA diastolic pressure 20, CVP 10 - felt like she needed
   those filling pressures for cardiac output ; did not continue IV amio
   infusion after bolus b/c she had already converted, and the milrinone
   likely is what caused the afib
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-1-19**] 08:45 AM
   Amiodarone - [**2189-1-19**] 05:45 PM
   Metoprolol - [**2189-1-19**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-20**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.8
   HR: 87 (87 - 150) bpm
   BP: 85/48(57) {84/38(50) - 116/78(88)} mmHg
   RR: 16 (11 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 9 (8 - 14)mmHg
   PAP: (47 mmHg) / (23 mmHg)
   CO/CI (Fick): (3.5 L/min) / (2.2 L/min/m2)
   Mixed Venous O2% Sat: 40 - 52
   Total In:
                                                                  1,467 mL
                                                                    107 mL
   PO:
                                                                    900 mL
   TF:
   IVF:
                                                                    567 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,433 mL
                                                                     80 mL
   Urine:
                                                                  1,433 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     34 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent),
   dopplarable
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, No(t) Non-tender, Tender: diffuse per patient, no
   rebound or guarding
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   217 K/uL
   10.0 g/dL
   122 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.6 mEq/L
   25 mg/dL
   100 mEq/L
   134 mEq/L
   31.2 %
   12.6 K/uL
        [image002.jpg]
                             [**2189-1-18**]  08:39 AM
                             [**2189-1-18**]  11:35 AM
                             [**2189-1-18**]  11:40 AM
                             [**2189-1-18**]  04:03 PM
                             [**2189-1-18**]  10:16 PM
                             [**2189-1-19**]  04:42 AM
                             [**2189-1-19**]  10:16 AM
                             [**2189-1-19**]  03:33 PM
                             [**2189-1-19**]  04:00 PM
                             [**2189-1-20**]  05:20 AM
   WBC
   14.5
   11.2
   12.6
   Hct
   35
   32.0
   29.5
   30
   33
   33
   31.2
   Plt
   286
   204
   217
   Cr
   0.8
   0.8
   0.8
   TropT
   6.78
   TCO2
   23
   23
   Glucose
   126
   141
   141
   116
   122
   Other labs: PT / PTT / INR:12.9/32.0/1.1, CK / CKMB /
   Troponin-T:259/14/6.78, Lactic Acid:1.2 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   87F with no PMHx p/w chest pain found to have 3V CAD and proximal LAD
   and LCx total thrombotic occlusion, now s/p stenting with extensive LV
   systolic dysfunction including apical akinesis.  IABP removed.
   #. s/p STEMI: The patient has diffuse disease. She had thrombotic
   occlusion of the proximal LAD and LCx requiring 5 stents. IABP was
   placed to maintain pump support. CE trending down although appears to
   be large MI. Put on milrinone in attempt to increase urine output.
   Blood pressures stable without IABP and IABP removed without problem.
   Yesterday had elevated LA filling pressures so was diuresed. Yesterday
   had increased SVR and decreased CO after metoprolol. Overnight
   restarted on milrinone for low UOP. Went into AFib and then d/c'ed
   again. Now in NSR.
   - continue aspirin, plavix
   - continue high dose statin
   - continue lovenox for apical akinesis
 start coumadin
   - hold beta blocker for now - appears to need inotropic function
   - consider low dose lisinopril to decrease afterload
   - continue tele
   - PT consult
   - even I/O, monitor PA cath numbers
 d/c PA cath today if stable
   - d/c cordis if stable
   #. Cardiogenic Shock: Not perfusing kidneys well. Attempted milrinone
   last night as well as fluid bolus without increase in UOP. Cardiac
   index currently 2.2.
   - monitor urine output - IVF prn if tolerates
   - monitor blood pressures
   - trend CO/CI
   - per above
   #. Decreased urine output: The patient had foley replaced. Multiple IVF
   boluses and milrinone drip. UOP still dropped. Patient went into AFib
   and milrinone stopped. Her creatinine is stable.
   - trend creatinine
   - consider pressor support
   #. AFib RVR: To 150s. D/ced milrinone which was likely inciting factor.
   Also given bolus of amio which converted into NSR. Was not continued.
   - hold amio
   - follow tele
   #. Leukocytosis: Prior CXR without evidence of consolidation.
   - trend WBC/temp
   - check UA
   #. Abdominal pain: CTAP done without clear signs of pathology which
   could explain symptoms. The patient continues to complain of vague
   symptoms. Lactates have been normal.
   #. Back pain: Hematocrit was stable and now has trended down slightly.
   No evidence of RP or dissection on CT. Likely secondary to hemolysis
   from balloon pump.
   - trend hct
   - guaiac stools
   - transfuse if ischemic or HD unstable
    #. Anxiety: Need reassurance often. Has responded to morphine in the
   past.
   - Social work
   ICU Care
   Nutrition:
   Comments: diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2189-1-18**] 11:22 AM
   PA Catheter - [**2189-1-18**] 11:26 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2189-01-21 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2189-1-20**] 02:00 PM
 PA CATHETER - STOP [**2189-1-20**] 02:00 PM
   - PA Catheter was pulled yesterday
   - started on warfarin 2.5 daily; continues on lovenox bridging
   - lasix PO and digoxin started
   - Family mtg - patient to go home tomorrow - with VNA
   - Palliative care consulted but has not come by yet
   - cardiology follow up on monday
   - PT has seen patient
   - Captopril as ordered.  Ativan .25mg po x1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-21**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98
   HR: 110 (92 - 120) bpm
   BP: 106/64(73) {87/44(56) - 128/80(89)} mmHg
   RR: 20 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 9 (8 - 12)mmHg
   PAP: (51 mmHg) / (27 mmHg)
   CO/CI (Fick): (3.1 L/min) / (1.9 L/min/m2)
   Mixed Venous O2% Sat: 45 - 45
   Total In:
                                                                  1,066 mL
                                                                    120 mL
   PO:
                                                                    630 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    436 mL
   Blood products:
   Total out:
                                                                    462 mL
                                                                    135 mL
   Urine:
                                                                    462 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    604 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent),
   dopplarable
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, No(t) Non-tender, Tender: diffuse per patient, no
   rebound or guarding
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   251 K/uL
   10.6 g/dL
   110 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   23 mg/dL
   102 mEq/L
   135 mEq/L
   30.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2189-1-18**]  11:40 AM
                             [**2189-1-18**]  04:03 PM
                             [**2189-1-18**]  10:16 PM
                             [**2189-1-19**]  04:42 AM
                             [**2189-1-19**]  10:16 AM
                             [**2189-1-19**]  03:33 PM
                             [**2189-1-19**]  04:00 PM
                             [**2189-1-20**]  05:20 AM
                             [**2189-1-20**]  10:35 AM
                             [**2189-1-21**]  05:10 AM
   WBC
   14.5
   11.2
   12.6
   10.3
   Hct
   32.0
   29.5
   30
   33
   33
   31.2
   29
   30.4
   Plt
   286
   204
   217
   251
   Cr
   0.8
   0.8
   0.8
   0.6
   TropT
   6.78
   TCO2
   23
   Glucose
   126
   141
   141
   116
   122
   110
   Other labs: PT / PTT / INR:12.6/32.0/1.1, CK / CKMB /
   Troponin-T:259/14/6.78, Lactic Acid:1.2 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   87F with no PMHx p/w chest pain found to have 3V CAD and proximal LAD
   and LCx total thrombotic occlusion, now s/p stenting with extensive LV
   systolic dysfunction including apical akinesis.  IABP removed.
   #. s/p STEMI:
   The patient has diffuse disease. She had thrombotic occlusion of the
   proximal LAD and LCx requiring 5 stents. IABP was placed to maintain
   pump support. CE trending down although appears to be large MI.
   Initially placed on milrinone in attempt to increase forward flow and
   urine output. Blood pressures stable without IABP and IABP removed
   without problem. Had increased SVR and decreased CO after metoprolol.
   Had gone into Afib w milrinone two nights ago, so it was stopped.  Seen
   by PT.  Needs anticoagulation because of akinesis/hypokinesis.  Poor
   inotropy and forward cardiac flow. Urine output low, not perfusing
   kidneys well.
   - continue aspirin, plavix
   - continue high dose statin
   - continue lovenox for apical akinesis
 start coumadin
   - hold beta blocker for now - appears to need inotropic function
   - consider low dose lisinopril to decrease afterload
   - continue tele
   - PT consult
   #. Decreased urine output:
   The patient had foley replaced. Multiple IVF boluses and milrinone
   drip. UOP still dropped. Patient went into AFib and milrinone stopped.
   Her creatinine is stable.
   - trend creatinine
   - consider pressor support
   #. AFib RVR: To 150s. D/ced milrinone which was likely inciting factor.
   Also given bolus of amio which converted into NSR. Was not continued.
   - hold amio
   - follow tele
   #. Leukocytosis: Prior CXR without evidence of consolidation.
   - trend WBC/temp
   - check UA
   #. Abdominal pain: CTAP done without clear signs of pathology which
   could explain symptoms. The patient continues to complain of vague
   symptoms. Lactates have been normal.
   #. Back pain: Hematocrit was stable and now has trended down slightly.
   No evidence of RP or dissection on CT. Likely secondary to hemolysis
   from balloon pump.
   - trend hct
   - guaiac stools
   - transfuse if ischemic or HD unstable
    #. Anxiety: Need reassurance often. Has responded to morphine in the
   past.
   - Social work
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-20**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-01-22 06:54:00 Physician Resident Progress Note
Chief Complaint: 87F p/w chest pain, 3V CAD and proximal LAD and LCx
   total thrombotic occlusion, s/p stent with LV systolic dysfuntion
   including apical akinesis. IABP removed. Started on coumadin. Plan on
   sending home with expectation that things may get worse. Now DNR/DNI.
   24 Hour Events:
   - Palliative care recommended morphine elixir 2-15mg sl q1h prn
   pain/air hunger.
   - Contact[**Name (NI) **] patient's daughter [**Name (NI) **] - patient is now DNR/DNI
   - [**Company **] contact[**Name (NI) **] for palliative services, to meet with
   daughter tomorrow, likely d/c home tomorrow with [**Hospital **] hospice.
   - cardiology followup with [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 9940**] in [**Location (un) 71**].
   - patient was extremely anxious, reported no relief from morphine
   elixir.
   - written for morphine IV prn overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-22**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 97 (92 - 115) bpm
   BP: 103/57(68) {95/51(60) - 128/67(79)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 55 kg
   Height: 66 Inch
                  Total In:
                                                                    730 mL
                                                                    180 mL
   PO:
                                                                    730 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    660 mL
                                                                      0 mL
   Urine:
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     70 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: elderly, anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), S3
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : lower lung fields)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   251 K/uL
   10.6 g/dL
   110 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   23 mg/dL
   102 mEq/L
   135 mEq/L
   30.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2189-1-18**]  11:40 AM
                             [**2189-1-18**]  04:03 PM
                             [**2189-1-18**]  10:16 PM
                             [**2189-1-19**]  04:42 AM
                             [**2189-1-19**]  10:16 AM
                             [**2189-1-19**]  03:33 PM
                             [**2189-1-19**]  04:00 PM
                             [**2189-1-20**]  05:20 AM
                             [**2189-1-20**]  10:35 AM
                             [**2189-1-21**]  05:10 AM
   WBC
   14.5
   11.2
   12.6
   10.3
   Hct
   32.0
   29.5
   30
   33
   33
   31.2
   29
   30.4
   Plt
   286
   204
   217
   251
   Cr
   0.8
   0.8
   0.8
   0.6
   TropT
   6.78
   TCO2
   23
   Glucose
   126
   141
   141
   116
   122
   110
   Other labs: PT / PTT / INR:12.6/32.0/1.1, CK / CKMB /
   Troponin-T:259/14/6.78, Lactic Acid:1.2 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR: IMPRESSION:
   1. Worsening perihilar edema with worsening bilateral moderate pleural
   effusions and moderate bibasilar atelectases.
   2. New left lower lobe opacity is concerning for atelectasis or
   pneumonia in
   the correct clinical setting.
   Assessment and Plan
   87F with no PMHx p/w chest pain found to have 3V CAD and proximal LAD
   and LCx total thrombotic occlusion, now s/p stenting with extensive LV
   systolic dysfunction including apical akinesis.  IABP removed. Now
   DNR/DNI. Home with [**Hospital **] hospice.
   # Goals of Care: Now DNR/DNI. Moving towards hospice. Going home today
   with expectation that this may get worse. Family and patient aware of
   prognosis.
   - appreciate palliative care recs
   - appreciate case management help
   - home w VNA bridge to hospice today
   - d/c with morphine for pain and air hunger
   #. s/p STEMI:
   The patient has diffuse disease. She had thrombotic occlusion of the
   proximal LAD and LCx requiring 5 stents. IABP was placed to maintain
   pump support.  Had increased SVR and decreased CO after metoprolol.
   Had gone into Afib w milrinone two nights ago, so it was stopped.  Seen
   by PT.  Needs anticoagulation because of akinesis/hypokinesis.  Poor
   inotropy and forward cardiac flow. Urine output low, not perfusing
   kidneys well. Planning on going home with hospice care although DNR/DNI
   at this point.
   - continue aspirin, plavix
   - continue high dose statin
   - continue lovenox and coumadin for apical akinesis
   - to follow up with Dr. [**Last Name (STitle) 9940**]
   - hold beta blocker
   - hold ACEi
   - cont low dose digoxin
   - PT consulted
   - home with VNA - consider transition to hospice
   - contact PCP
 about INR checks
    #. Decreased urine output: The patient had foley replaced. Multiple
   IVF boluses and milrinone drip. UOP still dropped. Patient went into
   AFib and milrinone stopped. Her creatinine is stable.  Needs improved
   cardiac output to improve urine output, but options are limited to
   increase cardiac output.
   #. AFib RVR: To 150s. D/ced milrinone which was likely inciting
   factor.  Also given bolus of amio which converted into NSR.  IV loading
   dose amio was not continued.
   - follow tele while inpatient
   #. Leukocytosis: Prior CXR without evidence of consolidation.  Appears
   to have been post-MI related.
    #. Anxiety: Needs reassurance often. Has responded to morphine in the
   past.
   - Social work
   - morphine per above
   ICU Care
   Nutrition:
   Comments: cardiac healthy diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2189-1-20**] 11:00 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:D/C Home